US08058045B2
Sodium hydride (60% by wt) (32.7 mg, 0.817 mmol) was added to a solution of 2-chloro-5-iodopyridin-4-amine (160 mg, 0.629 mmol) in DMF (3930 μL) at room temperature and the mixture was stirred for 10 min. The temperature was raised to 80° C. and tert-butyl 4-fluoro-4-(tosyloxymethyl)piperidine-1-carboxylate (244 mg, 0.629 mmol) in DMF (1 mL) was added. The reaction mixture was stirred at 80° C. for 2 hr before further NaH (1.3 eq.) was added after first cooling the reaction to room temperature again. The reaction mixture was heated at 120° C. for 10 hr. After cooling, the solution was partitioned between EtOAc (150 mL) and 1M aqueous NaHCO3. The organic layer was washed with 1M NaHCO3 aq., sat. NaHCO3 and brine, then dried (MgSO4) and concentrated. The residue was dissolved in dichloromethane/hexane and loaded onto a 25+M Biotage silica column. Chromatography, eluting with 1% MeOH in dichloromethane gave partial purification. Further purification by preparative thin layer chromatography, eluting with 16% EtOAc in dichloromethane, gave tert-butyl 4-((2-chloro-5-iodopyridin-4-ylamino)methyl)-4-fluoropiperidine-1-carboxylate (39 mg, 0.083 mmol, 13%) as a colourless solid.

reactant | Sodium hydride | 0.817 mmol, 32.7 mg | [H-].[Na+]
reactant | 2-chloro-5-iodopyridin-4-amine | 0.629 mmol, 160 mg | ClC1=NC=C(C(=C1)N)I | C5H4ClIN2
reactant | tert-butyl 4-fluoro-4-(tosyloxymethyl)piperidine-1-carboxylate | 0.629 mmol, 244 mg | FC1(CCN(CC1)C(=O)OC(C)(C)C)COS(=O)(=O)C1=CC=C(C)C=C1 | C18H26FNO5S
reactant | NaH | 1.3 eq. | [H-].[Na+]
solvent | DMF | 3930 μL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | tert-butyl 4-((2-chloro-5-iodopyridin-4-ylamino)methyl)-4-fluoropiperidine-1-carboxylate | 0.083 mmol, 39 mg, 13% | ClC1=NC=C(C(=C1)NCC1(CCN(CC1)C(=O)OC(C)(C)C)F)I | C16H22ClFIN3O2
